### PR TITLE
expR_ge1Dxn

### PR DESCRIPTION
**Pull request by IshiguroYoshihiro**
##### Motivation for this change
This lemma is a property of expR, which is generalized from a local lemma 
`0 <= x -> 1 + x <= expR x`.

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: theories/exp.v [hunk 1]
```diff
@@ -319,20 +319,31 @@ rewrite -addn1 series_addn series_exp_coeff0 big_add1 big1 ?addr0//.
...
 Proof.
 move=> x_ge0; rewrite /expR.
-pose f (x : R) i := (i == 0%nat)%:R + x *+ (i == 1%nat).
-have F n : (1 < n)%nat -> \sum_(0 <= i < n) (f x i) = 1 + x.
-  move=> /subnK<-.
-  by rewrite addn2 !big_nat_recl //= /f /= mulr1n !mulr0n big1 ?add0r ?addr0.
-have -> : 1 + x = limn (series (f x)).
-  by apply/esym/lim_near_cst => //; near=> n; apply: F; near: n.
-apply: ler_lim; first by apply: is_cvg_near_cst; near=> n; apply: F; near: n.
+pose f n (x : R) i := ((i == 0%nat)%:R + x ^+ n / n`!%:R *+ (i == n)).
```
Comment (affeldt-aist) [inline theories/exp.v]:
```suggestion
pose f n (x : R) i := ((i == 0%N)%:R + x ^+ n / n`!%:R *+ (i == n)).
```

File: theories/exp.v [hunk 2]
```diff
@@ -319,20 +319,31 @@ rewrite -addn1 series_addn series_exp_coeff0 big_add1 big1 ?addr0//.
...
+have F m : (n.+1 < m)%nat ->
```
Comment (affeldt-aist) [inline theories/exp.v]:
```suggestion
have F m : (n.+1 < m)%N ->
```

File: theories/exp.v [hunk 3]
```diff
@@ -319,20 +319,31 @@ rewrite -addn1 series_addn series_exp_coeff0 big_add1 big1 ?addr0//.
 by move=> i _; rewrite /exp_coeff /= expr0n mul0r.
 Unshelve. all: by end_near. Qed.
 
-Local Lemma expR_ge1Dx_subproof x : 0 <= x -> 1 + x <= expR x.
+Lemma expR_ge1Dxn x n : 0 <= x ->
+   1 + x ^+ n.+1 / n.+1`!%:R <= expR x.
```
Comment (t6s) [inline theories/exp.v]: can be on the previous line without exceeding 80 cols?

**Review by affeldt-aist — APPROVED** [review]
